US08669234B2
To the solution of 2′-methylaminomethyl-4,4′-bis-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-2-carboxylic acid methyl ester (90 mg) in pyridine (5 ml) was added diisopropylethylamine (1 ml). The mixture was heated at 100° C. for 2 hours. The solvents were evaporated. The mixture was diluted with acetonitrile and water, was freezer-dried to give 6-Methyl-3,9-bis-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-6,7-dihydro-dibenzo[c,e]azepin-5-one as brown powder. m/z: 494.1 (M+H)+.

reactant | 2′-methylaminomethyl-4,4′-bis-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-2-carboxylic acid methyl ester | 90 mg | COC(=O)C=1C(=CC=C(C1)C=1NC(=NC1)C1NCCC1)C1=C(C=C(C=C1)C=1NC(=NC1)C1NCCC1)CNC | C30H35N7O2
reactant | diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-Methyl-3,9-bis-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-6,7-dihydro-dibenzo[c,e]azepin-5-one | CN1C(C2=C(C3=C(C1)C=C(C=C3)C=3NC(=NC3)C3NCCC3)C=CC(=C2)C=2NC(=NC2)C2NCCC2)=O | C29H31N7O
